US07396844B1
Synthesis of benzyl (3R)-3-[(biphenyl-4-carbonyl)amino]-4-(3-cyanophenoxy)butyrate
310 mg (1.0 mmol) of benzyl (3R)-3-amino-4-(3-cyanophenoxy)butyrate hydrochloride was dissolved in 10 ml of dimethylformamide. 0.18 ml (1.3 mmol) of triethylamine was added to the solution. 282 mg (1.3 mmol) of 4-phenylbenzoyl chloride was added to the resultant mixture under cooling with ice, and they were stirred for 30 minutes. The temperature was elevated to room temperature, and the reaction mixture was stirred for additional 2 hours. The reaction liquid was diluted with water. After the extraction with ethyl acetate, the organic layer was successively washed with water, 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous NaCl solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl (3R)-3-amino-4-(3-cyanophenoxy)butyrate hydrochloride | 1.0 mmol, 310 mg | Cl.N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=CC(=CC=C1)C#N
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | 4-phenylbenzoyl chloride | 1.3 mmol, 282 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl (3R)-3-[(biphenyl-4-carbonyl)amino]-4-(3-cyanophenoxy)butyrate | C1(=CC=C(C=C1)C(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=CC(=CC=C1)C#N)C1=CC=CC=C1 | C31H26N2O4
